US04636523
Into a pressure bottle were placed 5.0 g (0.029 mole) 2-chloro-4-nitrophenol, 5.0 g (0.036 mole) potassium carbonate, 1.0 g (0.013 mole) propanethiol, 11.2 g (0.043 mole) 1,2-dibromotetrafluoroethane and 100 ml of N,N-dimethylformamide. The pressure bottle was sealed and the mixture stirred at 50° C. for 48 hours. The pressure bottle was cooled to room temperature, opened, and the contents poured into a separatory funnel. Approximately 200 ml of a 2N sodium hydroxide solution was added to the separatory funnel. The resultant mixture was extracted with four 300 ml portions of diethyl ether. The extracts were combined and washed with two 100 ml portions of a 2N sodium hydroxide solution. The washed extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure leaving an oil. The reaction described above was repeated four additional times. The residual oils from the five experiments were combined and purified by column chromatography on silica gel, eluting with n-heptane:toluene (95:5), to yield 3-chloro-4-(2-bromo-1,1,2,2-tetrafluoroethoxy)nitrobenzene as an oil.

reactant | 2-chloro-4-nitrophenol | 0.029 mole, 5.0 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | potassium carbonate | 0.036 mole, 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | propanethiol | 0.013 mole, 1.0 g | C(CC)S | C3H8S
reactant | 1,2-dibromotetrafluoroethane | 0.043 mole, 11.2 g | BrC(C(Br)(F)F)(F)F | C2Br2F4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-chloro-4-(2-bromo-1,1,2,2-tetrafluoroethoxy)nitrobenzene | ClC=1C=C(C=CC1OC(C(F)(F)Br)(F)F)[N+](=O)[O-] | C8H3BrClF4NO3
